US04507498
A mixture of 0.990 g (0.0043 mole) of 1-(5-chloro-2,4-dihydroxy-3-propylphenyl)ethanone, 1.980 g (0.0043 mole) of 4-[4-acetyl-3-[(5-bromopentyl)oxy]-3-propylphenoxy]butanoic acid ethyl ester and 1.2 g (0.0087 mole) of anhydrous potassium carbonate in 40 ml of anhydrous acetone and 20 ml of anhydrous dimethylformamide was stirred at reflux for 22 hours. The reaction mixture was concentrated in vacuo and the residue was purified by HPLC using 25% ethyl acetate-hexane to give 1.008 g (38% yield) of 4-[4-acetyl-3-[5-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)pentyloxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 1-(5-chloro-2,4-dihydroxy-3-propylphenyl)ethanone | 0.0043 mole, 0.990 g | ClC=1C(=C(C(=C(C1)C(C)=O)O)CCC)O | C11H13ClO3
reactant | 4-[4-acetyl-3-[(5-bromopentyl)oxy]-3-propylphenoxy]butanoic acid ethyl ester | 0.0043 mole, 1.980 g | C(C)OC(CCCOC=1CC(C(=CC1)C(C)=O)(CCC)OCCCCCBr)=O | C22H35BrO5
reactant | potassium carbonate | 0.0087 mole, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[4-acetyl-3-[5-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)pentyloxy]-2-propylphenoxy]butanoic acid ethyl ester | 1.008 g, 38% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCCCOC1=C(C(=C(C=C1Cl)C(C)=O)O)CCC)CCC)=O | C33H45ClO8
